US08912181B2
EDCI hydrochloride (22.0 g) and 1-hydroxybenzotriazole (11.4 g) were added to a solution of 2-amino-3-chlorobenzoic acid (12.8 g) in DMF (100 mL), and subsequently ammonia water (22.0 ml) was added thereto. The reaction solution was stirred at room temperature for 3 hours. Water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 2-amino-3-chlorobenzamide (9.7 g). Iron(III) chloride hexahydrate (6.3 g) and cyclopropanecarbaldehyde (1.3 ml) were added to a suspension of the obtained 2-amino-3-chlorobenzamide (2.0 g) in water (30 ml), and the mixture was stirred overnight at 100° C. After cooling, water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 8-chloro-2-cyclopropylquinazolin-4(1H)-one (2.0 g). Compound (115) was obtained as a yellow solid (yield based on 6 steps: 18%) according to Example 114(2) using the obtained 8-chloro-2-cyclopropylquinazolin-4(1H)-one instead of compound (114a).

reactant | cyclopropanecarbaldehyde | 1.3 ml | C1(CC1)C=O | C4H6O
reactant | 2-amino-3-chlorobenzamide | 2.0 g | NC1=C(C(=O)N)C=CC=C1Cl | C7H7ClN2O
solvent | water | 30 ml | O | H2O
catalyst | Iron(III) chloride hexahydrate | 6.3 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | 8-chloro-2-cyclopropylquinazolin-4(1H)-one | 2.0 g | ClC=1C=CC=C2C(N=C(NC12)C1CC1)=O | C11H9ClN2O
